US04727081
N-Methyl-N'-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]1,3,4-thiadiazole-2,5-diamine
2 ml of 30% Hydrogen peroxide are added to 1.58 g (4 mmol) of N-methyl-N'-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]-1,2-hydrazine dicarbothioamide in 30 ml of ethanol and the reaction mixture is briefly heated to boiling. The sulphur which separates is filtered off hot with the aid of active charcoal and the filtrate is concentrated by evaporation and purified by preparative layer chromatography.

reactant | Hydrogen peroxide | 2 ml | OO | H2O2
reactant | N-methyl-N'-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]-1,2-hydrazine dicarbothioamide | 4 mmol, 1.58 g | CNC(=S)NNC(NCCCOC1=CC(=CC=C1)CN1CCCCC1)=S | C18H29N5OS2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | N-Methyl-N'-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]1,3,4-thiadiazole-2,5-diamine | CNC=1SC(=NN1)NCCCOC1=CC(=CC=C1)CN1CCCCC1 | C18H27N5OS
